US04167567
To a suspension of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine (2 g, 0.005 mol) in 15 ml of methylene chloride is added dropwise a solution of p-tolyl isocyanate in 10 ml of methylene chloride under nitrogen at room temperature. After complete addition, the resultant suspension is stirred at room temperature for 2 hours. This suspension is then filtered and the white residue is washed with methylene chloride and dried. This is re-crystallized from methanol/methylene chloride to give 2.5 g (93%) of white crystalline 1-[[(4-methylphenyl)amino]carbonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine of melting point 280°-282° C.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.005 mol, 2 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | p-tolyl isocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[[(4-methylphenyl)amino]carbonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 2.5 g, 93% | CC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C29H26F3N5O2
